US07834063B2
C. 2-[[4-Cyano-3-(trifluoromethyl)phenyl](2,2,2-trifluoroethyl)amino]ethyl methanesulfonate
To a solution of 4-[(2-hydroxyethyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile (0.104 g, 0.333 mmol) in CH2Cl2 (3 mL) at 0° C. was added Et3N (0.07 mL, 0.5 mmol), followed by MsCl (0.03 mL, 0.37 mmol). The resulting mixture was stirred 12 h, gradually warming to rt. The mixture was poured into 10% v/v HCl and the layers were separated. The organic layer was washed (sat'd NaHCO3, water, brine), dried over Na2SO4, filtered and concentrated to a colorless film (0.122 g), which was used without further purification: 1H NMR (300 MHz, CDCl3) δ 7.71 (d, J=8.8 Hz, 1H), 7.12 (d, J=2.4 Hz, 1H), 6.99 (dd, J=8.7, 2.7 Hz, 1H), 4.43 (t, J=5.7 Hz, 2H), 4.10 (q, J=8.5 Hz, 2H), 3.95 (t, J=5.7 Hz, 2H), 3.02 (s, 3H).

reactant | 4-[(2-hydroxyethyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | 0.333 mmol, 0.104 g | OCCN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C12H10F6N2O
reactant | Et3N | 0.5 mmol, 0.07 mL | CCN(CC)CC | C6H15N
reactant | MsCl | 0.37 mmol, 0.03 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 2-[[4-Cyano-3-(trifluoromethyl)phenyl](2,2,2-trifluoroethyl)amino]ethyl methanesulfonate | CS(=O)(=O)OCCN(CC(F)(F)F)C1=CC(=C(C=C1)C#N)C(F)(F)F | C13H12F6N2O3S
